US04180669
2-(N-Methyl-1,2,3,4-tetrahydro-4-pyridyl)-5-(methyl) resorcinol
Orcinol hydrate (15 g) and N-methylpiperidone (11.0 g) were dissolved in 30 ml acetic acid and treated with HCl gas as described in Example VI giving 6.42 g of product, m.p. 241°-243°.

reactant | Orcinol hydrate | 15 g | O.C1(=CC(O)=CC(C)=C1)O
reactant | N-methylpiperidone | 11.0 g | CN1C(CCCC1)=O | C6H11NO
reactant | HCl | Cl | ClH
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-(N-Methyl-1,2,3,4-tetrahydro-4-pyridyl)-5-(methyl) resorcinol | 6.42 g | CN1CCC(C=C1)C1=C(O)C=C(C=C1O)C | C13H17NO2
